US07220759B2
By the reaction in the same manner as in Example 2a, using 5-methyl-3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride (1 g) and 3-bromo-1-propanol (751 mg), 5-methyl-3-[1-(3-hydroxypropyl)piperidin-4-yl]-2H-isoquinolin-1-one (221 mg) was obtained.

reactant | 5-methyl-3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride | 1 g | Cl.CC1=C2C=C(NC(C2=CC=C1)=O)C1CCNCC1
reactant | 3-bromo-1-propanol | 751 mg | BrCCCO | C3H7BrO
product | 5-methyl-3-[1-(3-hydroxypropyl)piperidin-4-yl]-2H-isoquinolin-1-one | 221 mg | CC1=C2C=C(NC(C2=CC=C1)=O)C1CCN(CC1)CCCO | C18H24N2O2
